US04180658
A mixture of 61.3 g. (0.3274 M.) 1-acetamidoethyl-5-mercaptotetrazole and 313 ml. 6 N HCl (196 mg./ml.; 1.888 M.) was heated at reflux for 2 hours. The resulting solution was treated with 10 g. carbon and evaporated at 45° C. (15 mm.) to a solid which was triturated with 90 ml. glacial acetic acid, washed with 250 ml. ether and dried in vacuo over P2O5 to give 45.6 g. (77% yield) of 1-aminoethyl-5-mercaptotetrazole hydrochloride.

reactant | 1-acetamidoethyl-5-mercaptotetrazole | 0.3274 M | C(C)(=O)NC(C)N1N=NN=C1S | C5H9N5OS
reactant | HCl | 6 N, 196 mg | Cl | ClH
product | 1-aminoethyl-5-mercaptotetrazole hydrochloride | 77% yield | Cl.NC(C)N1N=NN=C1S | InChI=1S/C3H7N5S.ClH/c1-2(4)8-3(9)5-6-7-8;/h2H,4H2,1H3,(H,5,7,9);1H
